US06774258B2
By following the procedure of Synthesis Example 2 except that 4-ethyl-1,4-hexanediol was used instead of 4-methyl-1,4-pentanediol and methyl 3-(5-norbornen-2-yl)propionate used instead of methyl 5-norbornene-2-carboxylate, there was obtained 4-ethyl-4-hydroxyhexyl 3-(5-norbornen-2-yl)propionate. Yield 91%.

reactant | 4-ethyl-1,4-hexanediol | C(C)C(CCCO)(CC)O | C8H18O2
reactant | methyl 3-(5-norbornen-2-yl)propionate | C12C(CC(C=C1)C2)CCC(=O)OC | C11H16O2
product | 4-ethyl-4-hydroxyhexyl 3-(5-norbornen-2-yl)propionate | Yield 91% | C12C(CC(C=C1)C2)CCC(=O)OCCCC(CC)(O)CC | C18H30O3
